US08633215B2
Furo[2,3-c]isoquinolin-5(4H)-one
Thionyl chloride (1 ml) was added to a suspension of 3-phenyl-2-furancarboxylic acid (300 mg, 1.46 mmol) in 10 ml of dry benzene and the mixture was refluxed for 2 hours. The solvent and the excess of thionyl chloride were removed under reduced pressure, the residue was taken up using 10 ml of dry THF and cooled to 0° C. Sodium azide (1.5 mmol) dissolved in the minimal amount of water was quickly added and the resulting solution was stirred for 1 hour at room temperature. After pouring into 100 ml of cracked ice/H2O and extraction with diethyl ether (4×100 ml), and the collected organic layers were dried over Na2SO4. The filtrate was gently evaporated under reduced pressure, the residue was dissolved in 10 ml of o-dichlorobenzene, and the resulting mixture was refluxed for 5-10 hours. The mixture was then cooled, and directly submitted to the flash chromatography, elution with dichloromethane/methanol (99/1) afforded to the title compound. Yield: 68%.

reactant | Thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-phenyl-2-furancarboxylic acid | 1.46 mmol, 300 mg | C1(=CC=CC=C1)C1=C(OC=C1)C(=O)O | C11H8O3
reactant | Sodium azide | 1.5 mmol | [N-]=[N+]=[N-].[Na+]
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Furo[2,3-c]isoquinolin-5(4H)-one | Yield: 68% | C1=COC=2NC(C=3C=CC=CC3C21)=O | C11H7NO2
